* C:\Users\Uni\Downloads\Frequency Modulation\FM CCT.asc
* Generated by LTspice 26.0.1 for Windows.
R3 N002 N003 1000000000
R2 N003 Vo 1000000000
C1 Vo N001 143pF
R1 N001 N002 1000000000
V1 Vref 0 2.5 AC 0.001
V2 Vcc 0 5 Rser=0
V3 Voff 0 2.5 AC 0.001
R4 N002 Vcc 12K
X§U1 N003 Voff Vcc 0 N002 LF353 ;§pnba In+)In-)V+)V-)OUT
X§U2 Vref N001 Vcc 0 Vo LF353 ;§pnba In+)In-)V+)V-)OUT
.tran 0 1000u 0
* Smallest Capacitor = 143pF
* Largest Capacitor = 1350pF
.include LF353.301
.include TL082.301
.backanno
.end
