* C:\Users\amay355\OneDrive - The University of Auckland\Desktop\ELECTENG-310-Project-1-Group-2-\kiefer\MFB - Copy.asc
* Generated by LTspice 26.0.1 for Windows.
R14 N001 Vlow 10k
R7 N003 N001 4.7k
R13 N005 5V 27k
R33 0 N005 4.7k
R4 N001 N002 47k
X§U1 N005 N003 5V 0 N002 TLC081 ;§pnba In+)In-)V+)V-)OUT
C1 N001 0 1µ
V1 Vlow 0 PULSE(0 3.77 0 1n 1n 23.95u 947.5u) AC 1
V2 Vhigh 0 PULSE(0 3.82 0 1n 1n 18.77u 123.4u) AC 1
V3 5V 0 5V
C14 N002 N003 100n
R6 N004 N002 10k
C3 N004 0 1µ
V4 VlowDC 0 0.245V
V5 VhighDC 0 0.7V
.inc TLC081.mod
.tran 100m
* 8.79
* .ac dec 30 1 10meg
.backanno
.end
